US04285874
1-Isocyanato-anthraquinone
200 g of phosgene are dissolved in 650 g of o-dichlorobenzene at 5° C. A hot solution of 44.6 g (≈0.2 mol) of 1-amino-anthraquinone in o-dichlorobenzene is added dropwise to the phosgene solution in the course of 90 minutes. During this addition, the temperature in the reaction mixture is allowed to rise slowly up to 25° C. and a stream of phosgene is continuously passed through the reaction mixture. A yellow product precipitates. The mixture is then heated to 175° C. in the course of a further 90 minutes whilst passing a stream of phosgene through, whereupon a clear solution forms. After 40 minutes at 175° C., the stream of phosgene is discontinued and nitrogen is passed through the reaction mixture. After a further 60 minutes, the mixture is cooled and, from 120° C., the solvent is distilled off under reduced pressure. The crystalline residue which remains (53 g, still contains small amounts of o-dichlorobenzene) consists of 1-isocyanato-anthraquinone to the extent of 92.1% (NCO titration according to the method in Houben-Weyl, volume 2 (1953), page 557), which corresponds to a yield of 98%. C15H7NO3 calculated: 72.29% C. 2.83% H 5.62% N; found: 72.2 72.3 2.7 2.8 5.5 5.6.

reactant | phosgene | 200 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-amino-anthraquinone | ≈0.2 mol, 44.6 g | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
solvent | o-dichlorobenzene | 650 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-Isocyanato-anthraquinone | yield of 98% | N(=C=O)C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C15H7NO3
